US07166595B2
d) 2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-5,6-dimethyl-3H-pyrimidin-4-one
To 2-(2-{1-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4yl}-ethyl)-isoindole-1,3-dione (0.371 g, 0.619 mmol) in EtOH (14 mL) was added hydrazine monohydrate (0.138 g, 2.48 mmol) and the reaction was stirred at room temperature for 72 h. The reaction was filtered and the filtrate was concentrated to dryness. The residue was purified by flash chromatography on silica gel (90:9:1 CH2Cl2:MeOH:NH4OH) to give the title compound as a white solid (0.209 g, 72%). MS(ES)+m/e 470 [M+H]+.

reactant | 2-(2-{1-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4yl}-ethyl)-isoindole-1,3-dione | 0.619 mmol, 0.371 g | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)C(C(C)C)N1C(=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C | C37H37N5O3
reactant | hydrazine monohydrate | 2.48 mmol, 0.138 g | O.NN
solvent | EtOH | 14 mL | CCO | C2H6O
product | 2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-5,6-dimethyl-3H-pyrimidin-4-one | 0.209 g, 72% | NCCC=1N=C(N(C1)C(C(C)C)C1=NC(=C(C(N1CC1=CC=CC=C1)=O)C)C)C1=CC=C(C=C1)C | C29H35N5O
